** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/chip_top_tb.sch
**.subckt chip_top_tb
Ilk VDD NN_tau_VNI 4p
VDD1 VDD net1 1.2
Iref VDD NN_ref_VNI 100p
Vidd net1 GND 0
.save i(vidd)
XM27 NN_tau_VNI NN_tau_VNI GND GND sg13_hv_nmos w=4u l=4u ng=2 m=4
C2 NN_tau_VNI GND 100p
XM1 NN_ref_VNI NN_ref_VNI GND GND sg13_hv_nmos w=4u l=4u ng=2 m=4
C1 NN_ref_VNI GND 100p
XM3 V2I_bias_VPI V2I_bias_VPI VDD VDD sg13_hv_pmos w=4u l=1u ng=1 m=4
C3 VDD V2I_bias_VPI 2p
Ibias V2I_bias_VPI GND 6n
Vcm V2I_cm_VI GND 0.4
Vin V2I_in_VI GND sine(0.4 50m 10)
C4 BUF_prob_VX1O GND 20p
xinv1[10] VDD VDD NN_req_VA[10] NN_req_VABO[10] GND GND inv
xinv1[9] VDD VDD NN_req_VA[9] NN_req_VABO[9] GND GND inv
xinv1[8] VDD VDD NN_req_VA[8] NN_req_VABO[8] GND GND inv
xinv1[7] VDD VDD NN_req_VA[7] NN_req_VABO[7] GND GND inv
xinv1[6] VDD VDD NN_req_VA[6] NN_req_VABO[6] GND GND inv
xinv1[5] VDD VDD NN_req_VA[5] NN_req_VABO[5] GND GND inv
xinv1[4] VDD VDD NN_req_VA[4] NN_req_VABO[4] GND GND inv
xinv1[3] VDD VDD NN_req_VA[3] NN_req_VABO[3] GND GND inv
xinv1[2] VDD VDD NN_req_VA[2] NN_req_VABO[2] GND GND inv
xinv1[1] VDD VDD NN_req_VA[1] NN_req_VABO[1] GND GND inv
xinv1[0] VDD VDD NN_req_VA[0] NN_req_VABO[0] GND GND inv
xinv2[10] VDD VDD NN_ack_VABI[10] NN_req_VA[10] GND GND inv
xinv2[9] VDD VDD NN_ack_VABI[9] NN_req_VA[9] GND GND inv
xinv2[8] VDD VDD NN_ack_VABI[8] NN_req_VA[8] GND GND inv
xinv2[7] VDD VDD NN_ack_VABI[7] NN_req_VA[7] GND GND inv
xinv2[6] VDD VDD NN_ack_VABI[6] NN_req_VA[6] GND GND inv
xinv2[5] VDD VDD NN_ack_VABI[5] NN_req_VA[5] GND GND inv
xinv2[4] VDD VDD NN_ack_VABI[4] NN_req_VA[4] GND GND inv
xinv2[3] VDD VDD NN_ack_VABI[3] NN_req_VA[3] GND GND inv
xinv2[2] VDD VDD NN_ack_VABI[2] NN_req_VA[2] GND GND inv
xinv2[1] VDD VDD NN_ack_VABI[1] NN_req_VA[1] GND GND inv
xinv2[0] VDD VDD NN_ack_VABI[0] NN_req_VA[0] GND GND inv
xchip NN_ack_VABI[7] NN_ack_VABI[6] NN_ack_VABI[5] NN_ack_VABI[4] NN_ack_VABI[3] NN_ack_VABI[2] NN_ack_VABI[1] NN_ack_VABI[0]
+ V2I_in_VI V2I_bias_VPI V2I_cm_VI NN_tau_VNI NN_ref_VNI BUF_prob_VX1O VDD NN_req_VABO[7] NN_req_VABO[6] NN_req_VABO[5] NN_req_VABO[4]
+ NN_req_VABO[3] NN_req_VABO[2] NN_req_VABO[1] NN_req_VABO[0] GND GND GND GND NN_ack_VABI[10] NN_ack_VABI[9] NN_ack_VABI[8] MUX_sel1_VSI
+ MUX_sel0_VSI NN_req_VABO[10] NN_req_VABO[9] NN_req_VABO[8] uio_out[4] uio_out[3] uio_out[2] uio_out[1] uio_out[0] IO_config_VS[7]
+ IO_config_VS[6] IO_config_VS[5] IO_config_VS[4] IO_config_VS[3] IO_config_VS[2] IO_config_VS[1] IO_config_VS[0] chip_top
* noconn IO_config_VS[7:0]
* noconn uio_out[4:0]
Vsel1 MUX_sel1_VSI GND 0
Vsel0 MUX_sel0_VSI GND 1.2
**** begin user architecture code



.param temp=27

.ic V(NN_req_VABO[10])=1.2 V(NN_req_VABO[9])=1.2 V(NN_req_VABO[8])=1.2
+V(NN_req_VABO[7])=1.2 V(NN_req_VABO[6])=1.2 V(NN_req_VABO[5])=1.2
+V(NN_req_VABO[4])=1.2 V(NN_req_VABO[3])=1.2 V(NN_req_VABO[2])=1.2
+V(NN_req_VABO[1])=1.2 V(NN_req_VABO[0])=1.2
.ic V(NN_ack_VABI[10])=1.2 V(NN_ack_VABI[9])=1.2 V(NN_ack_VABI[8])=1.2
+V(NN_ack_VABI[7])=1.2 V(NN_ack_VABI[6])=1.2 V(NN_ack_VABI[5])=1.2
+V(NN_ack_VABI[4])=1.2 V(NN_ack_VABI[3])=1.2 V(NN_ack_VABI[2])=1.2
+V(NN_ack_VABI[1])=1.2 V(NN_ack_VABI[0])=1.2
.ic V(xchip.NN_mem_VNT[10])=0 V(xchip.NN_mem_VNT[9])=0 V(xchip.NN_mem_VNT[8])=0
+V(xchip.NN_mem_VNT[7])=0 V(xchip.NN_mem_VNT[6])=0 V(xchip.NN_mem_VNT[5])=0
+V(xchip.NN_mem_VNT[4])=0 V(xchip.NN_mem_VNT[3])=0 V(xchip.NN_mem_VNT[2])=0
+V(xchip.NN_mem_VNT[1])=0 V(xchip.NN_mem_VNT[0])=0
.ic V(xchip.NN_refcap_VT[10])=0 V(xchip.NN_refcap_VT[9])=0 V(xchip.NN_refcap_VT[8])=0
+V(xchip.NN_refcap_VT[7])=0 V(xchip.NN_refcap_VT[6])=0 V(xchip.NN_refcap_VT[5])=0
+V(xchip.NN_refcap_VT[4])=0 V(xchip.NN_refcap_VT[3])=0 V(xchip.NN_refcap_VT[2])=0
+V(xchip.NN_refcap_VT[1])=0 V(xchip.NN_refcap_VT[0])=0

.options gmin=1e-13
.options method=gear
.control

save V(NN_req_VABO[10]) V(NN_req_VABO[9]) V(NN_req_VABO[8])
+V(NN_req_VABO[7]) V(NN_req_VABO[6]) V(NN_req_VABO[5])
+V(NN_req_VABO[4]) V(NN_req_VABO[3]) V(NN_req_VABO[2])
+V(NN_req_VABO[1]) V(NN_req_VABO[0])
save V(NN_ack_VABI[10]) V(NN_ack_VABI[9]) V(NN_ack_VABI[8])
+V(NN_ack_VABI[7]) V(NN_ack_VABI[6]) V(NN_ack_VABI[5])
+V(NN_ack_VABI[4]) V(NN_ack_VABI[3]) V(NN_ack_VABI[2])
+V(NN_ack_VABI[1]) V(NN_ack_VABI[0])
save V(BUF_prob_VX1O) V(xchip.buf2mux_VTX1[1]) V(xchip.buf2mux_VTX1[0])
save V(xchip.NN_mem_VNT[10]) V(xchip.NN_mem_VNT[9]) V(xchip.NN_mem_VNT[8])
+V(xchip.NN_mem_VNT[7]) V(xchip.NN_mem_VNT[6]) V(xchip.NN_mem_VNT[5])
+V(xchip.NN_mem_VNT[4]) V(xchip.NN_mem_VNT[3]) V(xchip.NN_mem_VNT[2])
+V(xchip.NN_mem_VNT[1]) V(xchip.NN_mem_VNT[0])
save V(xchip.NN_refcap_VT[10]) V(xchip.NN_refcap_VT[9]) V(xchip.NN_refcap_VT[8])
+V(xchip.NN_refcap_VT[7]) V(xchip.NN_refcap_VT[6]) V(xchip.NN_refcap_VT[5])
+V(xchip.NN_refcap_VT[4]) V(xchip.NN_refcap_VT[3]) V(xchip.NN_refcap_VT[2])
+V(xchip.NN_refcap_VT[1]) V(xchip.NN_refcap_VT[0])
save V(IO_config_VS[7]) V(IO_config_VS[6]) V(IO_config_VS[5]) V(IO_config_VS[4])
+V(IO_config_VS[3]) V(IO_config_VS[2]) V(IO_config_VS[1]) V(IO_config_VS[0])


tran 50n 100m
write chip_top_tb.raw
.endc






.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerCAP.lib cap_typ
.lib cornerRES.lib res_typ

**** end user architecture code
**.ends

* expanding   symbol:  inv.sym # of pins=6
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/inv.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/inv.sch
.subckt inv VDD nwell out in psub GND
*.ipin in
*.iopin GND
*.opin out
*.iopin VDD
*.iopin nwell
*.iopin psub
XM1 out in VDD nwell sg13_hv_pmos w=4u l=0.5u ng=1
XM2 out in GND psub sg13_hv_nmos w=4u l=0.5u ng=1
XR1 GND psub ptap1 R=122.5 w=2e-6 l=1e-6
XR2 VDD nwell ntap1 R=122.5 w=2e-6 l=1e-6
.ends


* expanding   symbol:  chip_top.sym # of pins=8
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/chip_top.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/chip_top.sch
.subckt chip_top ui_in[7] ui_in[6] ui_in[5] ui_in[4] ui_in[3] ui_in[2] ui_in[1] ui_in[0] ua[5] ua[4] ua[3] ua[2] ua[1] ua[0] VDPWR
+ uo_out[7] uo_out[6] uo_out[5] uo_out[4] uo_out[3] uo_out[2] uo_out[1] uo_out[0] VGND uio_in[7] uio_in[6] uio_in[5] uio_in[4] uio_in[3]
+ uio_in[2] uio_in[1] uio_in[0] uio_out[7] uio_out[6] uio_out[5] uio_out[4] uio_out[3] uio_out[2] uio_out[1] uio_out[0] uio_oe[7] uio_oe[6]
+ uio_oe[5] uio_oe[4] uio_oe[3] uio_oe[2] uio_oe[1] uio_oe[0]
*.iopin VDPWR
*.iopin VGND
*.ipin ui_in[7],ui_in[6],ui_in[5],ui_in[4],ui_in[3],ui_in[2],ui_in[1],ui_in[0]
*.opin uo_out[7],uo_out[6],uo_out[5],uo_out[4],uo_out[3],uo_out[2],uo_out[1],uo_out[0]
*.ipin uio_in[7],uio_in[6],uio_in[5],uio_in[4],uio_in[3],uio_in[2],uio_in[1],uio_in[0]
*.opin uio_out[7],uio_out[6],uio_out[5],uio_out[4],uio_out[3],uio_out[2],uio_out[1],uio_out[0]
*.opin uio_oe[7],uio_oe[6],uio_oe[5],uio_oe[4],uio_oe[3],uio_oe[2],uio_oe[1],uio_oe[0]
*.iopin ua[5],ua[4],ua[3],ua[2],ua[1],ua[0]
xrow[10] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[10] ua[3] ua[2] uio_out[7] ua[1] NN_refcap_VT[10] uio_in[4] neuron_row
xrow[9] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[9] ua[3] ua[2] uio_out[6] ua[1] NN_refcap_VT[9] uio_in[3] neuron_row
xrow[8] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[8] ua[3] ua[2] uio_out[5] ua[1] NN_refcap_VT[8] uio_in[2] neuron_row
xrow[7] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[7] ua[3] ua[2] uo_out[7] ua[1] NN_refcap_VT[7] ui_in[7] neuron_row
xrow[6] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[6] ua[3] ua[2] uo_out[6] ua[1] NN_refcap_VT[6] ui_in[6] neuron_row
xrow[5] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[5] ua[3] ua[2] uo_out[5] ua[1] NN_refcap_VT[5] ui_in[5] neuron_row
xrow[4] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[4] ua[3] ua[2] uo_out[4] ua[1] NN_refcap_VT[4] ui_in[4] neuron_row
xrow[3] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[3] ua[3] ua[2] uo_out[3] ua[1] NN_refcap_VT[3] ui_in[3] neuron_row
xrow[2] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[2] ua[3] ua[2] uo_out[2] ua[1] NN_refcap_VT[2] ui_in[2] neuron_row
xrow[1] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[1] ua[3] ua[2] uo_out[1] ua[1] NN_refcap_VT[1] ui_in[1] neuron_row
xrow[0] VDPWR VGND VDPWR VGND ua[4] ua[5] NN_mem_VNT[0] ua[3] ua[2] uo_out[0] ua[1] NN_refcap_VT[0] ui_in[0] neuron_row
xabuf[1] NN_refcap_VT[0] VDPWR ua[4] buf2mux_VTX1[1] VGND VDPWR VGND analog_buffer
xabuf[0] NN_mem_VNT[0] VDPWR ua[4] buf2mux_VTX1[0] VGND VDPWR VGND analog_buffer
xmux VDPWR VGND buf2mux_VTX1[0] buf2mux_VTX1[1] uio_in[0] uio_in[1] ua[0] mux21
xoehi[2] VDPWR VGND uio_oe[7] sg13g2_tiehi
xoehi[1] VDPWR VGND uio_oe[6] sg13g2_tiehi
xoehi[0] VDPWR VGND uio_oe[5] sg13g2_tiehi
xoelo[4] VDPWR VGND uio_oe[4] sg13g2_tielo
xoelo[3] VDPWR VGND uio_oe[3] sg13g2_tielo
xoelo[2] VDPWR VGND uio_oe[2] sg13g2_tielo
xoelo[1] VDPWR VGND uio_oe[1] sg13g2_tielo
xoelo[0] VDPWR VGND uio_oe[0] sg13g2_tielo
xoelo1[4] VDPWR VGND uio_out[4] sg13g2_tielo
xoelo1[3] VDPWR VGND uio_out[3] sg13g2_tielo
xoelo1[2] VDPWR VGND uio_out[2] sg13g2_tielo
xoelo1[1] VDPWR VGND uio_out[1] sg13g2_tielo
xoelo1[0] VDPWR VGND uio_out[0] sg13g2_tielo
* noconn uio_in[7:5]
* noconn NN_mem_VNT[10:1]
* noconn NN_refcap_VT[10:1]
.ends


* expanding   symbol:  neuron_row.sym # of pins=13
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/neuron_row.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/neuron_row.sch
.subckt neuron_row VDD GND nwell psub bias_VPI in_VI mem_VNTO cm_VI tau_VNI req_VABO ref_VNI refcap_VTO ack_VABI
*.ipin in_VI
*.ipin cm_VI
*.ipin bias_VPI
*.iopin VDD
*.iopin GND
*.iopin nwell
*.iopin psub
*.opin mem_VNTO
*.opin req_VABO
*.opin refcap_VTO
*.ipin tau_VNI
*.ipin ref_VNI
*.ipin ack_VABI
Xneuron VDD I_in tau_VNI mem_VNTO req_VABO ack_VABI ref_VNI GND refcap_VTO psub nwell neuron_noahp
xv2i VDD bias_VPI cm_VI in_VI I_in GND nwell psub V2I
.ends


* expanding   symbol:  analog_buffer.sym # of pins=7
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/analog_buffer.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/analog_buffer.sch
.subckt analog_buffer inp_cm VDD Vbias out GND nwell psub
*.ipin inp_cm
*.opin out
*.iopin VDD
*.iopin GND
*.ipin Vbias
*.iopin psub
*.iopin nwell
XM2 Vm inp_cm Vb nwell sg13_hv_pmos w=4u l=1u ng=1 m=4
XM5 Vm Vm GND psub sg13_hv_nmos w=4u l=1u ng=1 m=4
XM13 Vb Vbias VDD nwell sg13_hv_pmos w=4u l=1u ng=1 m=40
XM3 out out Vb nwell sg13_hv_pmos w=4u l=1u ng=1 m=4
XM1 out Vm GND psub sg13_hv_nmos w=4u l=1u ng=1 m=4
XR2 VDD nwell ntap1 R=17.27 w=0.8e-6 l=19.7e-6
XMDBIAS VDD VDD VDD nwell sg13_hv_pmos w=4u l=1u ng=2 m=20
XMDdiffINP Vb Vb Vb nwell sg13_hv_pmos w=4u l=1u ng=2 m=2
XMDdiffINN Vb Vb Vb nwell sg13_hv_pmos w=4u l=1u ng=2 m=2
XMDNMIRA GND GND GND psub sg13_hv_nmos w=4u l=1u ng=2 m=2
XMDNMIRB GND GND GND psub sg13_hv_nmos w=4u l=1u ng=2 m=2
XR3 VDD nwell ntap1 R=9.074 w=0.8e-6 l=38e-6
XR4 VDD nwell ntap1 R=9.074 w=0.8e-6 l=38e-6
XR5 GND psub ptap1 R=4.709 w=18.5e-6 l=6.3e-6 rw=0.3e-6
XR1 VDD nwell ntap1 R=19.37 w=0.8e-6 l=17.5e-6
.ends


* expanding   symbol:  mux21.sym # of pins=7
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/mux21.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/mux21.sch
.subckt mux21 VDD VSS IN0 IN1 SEL0 SEL1 OUT
*.iopin VDD
*.iopin VSS
*.ipin IN0
*.ipin IN1
*.ipin SEL0
*.ipin SEL1
*.opin OUT
x1 VDD VSS SEL0 OUT IN0 tg_lv
x2 VDD VSS SEL1 OUT IN1 tg_lv
.ends


* expanding   symbol:  sg13g2_tiehi.sym # of pins=3
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/sg13g2_tiehi.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/sg13g2_tiehi.sch
.subckt sg13g2_tiehi VDD VSS L_HI
*.iopin VSS
*.iopin VDD
*.opin L_HI
XMN1 net1 net1 VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP1 net2 net1 VDD VDD sg13_lv_pmos w=0.66u l=0.13u ng=1
XMN2 net3 net2 VSS VSS sg13_lv_nmos w=0.795u l=0.13u ng=1
XMP2 L_HI net3 VDD VDD sg13_lv_pmos w=1.155u l=0.13u ng=1
.ends


* expanding   symbol:  sg13g2_tielo.sym # of pins=3
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/sg13g2_tielo.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/sg13g2_tielo.sch
.subckt sg13g2_tielo VDD VSS L_LO
*.iopin VSS
*.iopin VDD
*.opin L_LO
XMN1 net3 net2 VSS VSS sg13_lv_nmos w=0.385u l=0.13u ng=1
XMP1 net2 net2 VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
XMN2 L_LO net1 VSS VSS sg13_lv_nmos w=0.88u l=0.13u ng=1
XMP2 net1 net3 VDD VDD sg13_lv_pmos w=1.045u l=0.13u ng=1
.ends


* expanding   symbol:  neuron_noahp.sym # of pins=11
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/neuron_noahp.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/neuron_noahp.sch
.subckt neuron_noahp VDD I_in V_lk Vmem REQ ACK V_ref GND Vrefcap psub nwell
*.ipin V_ref
*.iopin GND
*.iopin VDD
*.opin REQ
*.ipin ACK
*.ipin I_in
*.ipin V_lk
*.opin Vmem
*.opin Vrefcap
*.iopin psub
*.iopin nwell
Xinv1 VDD nwell net1 Vfb psub GND inv
Xinv2 VDD nwell REQ net1 psub GND inv
Xdpi1 I_in VDD Vmem V_lk GND nwell psub DPI
Xfb VDD Vfb Vmem GND nwell psub FB_system
Xref ACK Vmem REQ Vrefcap GND V_ref VDD nwell psub REF_system
XCmem GND Vmem cap_cmim w=44.4e-6 l=15e-6
XCref GND Vrefcap cap_cmim w=22.1e-6 l=15e-6
.ends


* expanding   symbol:  V2I.sym # of pins=8
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/V2I.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/V2I.sch
.subckt V2I VDD Vbias inn_cm inp_cm out GND nwell psub
*.ipin inn_cm
*.ipin inp_cm
*.opin out
*.ipin Vbias
*.iopin VDD
*.iopin GND
*.iopin psub
*.iopin nwell
XMIRA Vm Vm GND psub sg13_hv_nmos w=4u l=1u ng=2 m=4
XMBIAS Vb Vbias VDD nwell sg13_hv_pmos w=4u l=1u ng=2 m=4
XMIRB out Vm GND psub sg13_hv_nmos w=4u l=1u ng=2 m=4
XMdiffINN out inn_cm Vb nwell sg13_hv_pmos w=4u l=1u ng=2 m=4
XMDBIAS VDD VDD VDD nwell sg13_hv_pmos w=4u l=1u ng=2 m=2
XMIDC out Vbias VDD nwell sg13_hv_pmos w=3u l=1u ng=2 m=4
XMDIDC VDD VDD VDD nwell sg13_hv_pmos w=3u l=1u ng=2 m=2
XMdiffINP Vm inp_cm Vb nwell sg13_hv_pmos w=4u l=1u ng=2 m=4
XMDdiffINP Vb Vb Vb nwell sg13_hv_pmos w=4u l=1u ng=2 m=2
XMDdiffINN Vb Vb Vb nwell sg13_hv_pmos w=4u l=1u ng=2 m=2
XMDNMIRA GND GND GND psub sg13_hv_nmos w=4u l=1u ng=2 m=2
XMDNMIRB GND GND GND psub sg13_hv_nmos w=4u l=1u ng=2 m=2
XR3 GND psub ptap1 R=4.709 w=18.5e-6 l=6.3e-6 rw=0.3e-6
XR1 VDD nwell ntap1 R=3.606 w=19.5e-6 l=12.7e-6 rw=0.3e-6
.ends


* expanding   symbol:  tg_lv.sym # of pins=5
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/tg_lv.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/tg_lv.sch
.subckt tg_lv VDD VSS SEL OUT IN
*.ipin IN
*.iopin VDD
*.iopin VSS
*.iopin OUT
*.ipin SEL
x1 VDD SEL selbar VSS inv_lv
XM3 IN SEL OUT VSS sg13_lv_nmos w=8u l=0.15u ng=8
XM4 IN selbar OUT VDD sg13_lv_pmos w=8u l=0.15u ng=8
XMdumm1 VDD VDD VDD VDD sg13_lv_pmos w=1u l=0.15u ng=1 m=2
XMdumm2 VSS VSS VSS VSS sg13_lv_nmos w=1u l=0.15u ng=1 m=2
.ends


* expanding   symbol:  DPI.sym # of pins=7
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/DPI.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/DPI.sch
.subckt DPI I_in VDD V_mem V_lk GND nwell psub
*.opin V_mem
*.ipin V_lk
*.ipin I_in
*.iopin VDD
*.iopin GND
*.iopin nwell
*.iopin psub
XMdifl GND V_lk I_in nwell sg13_hv_pmos w=2u l=2u ng=2 m=8
XMdifr V_mem V_mem I_in nwell sg13_hv_pmos w=2u l=2u ng=2 m=8
XMtau V_mem V_lk GND psub sg13_hv_nmos w=4u l=4u ng=2 m=4
XR1 VDD nwell ntap1 R=16.73 w=25.2e-6 l=0.3e-6
XR2 VDD nwell ntap1 R=46.01 w=0.3e-6 l=9e-6
XR3 VDD nwell ntap1 R=46.01 w=0.3e-6 l=9e-6
XR4 GND psub ptap1 R=3.342 w=25.7e-6 l=9e-6 rw=0.3e-6
XMdum1 VDD VDD VDD nwell sg13_hv_pmos w=5u l=2u ng=10 m=2
XMdum2 I_in VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1 m=8
XMdum3 GND GND GND psub sg13_hv_nmos w=2u l=4u ng=4 m=2
XMdum4 GND GND GND psub sg13_hv_nmos w=0.5u l=3u ng=1 m=4
XMdum5 GND GND GND psub sg13_hv_nmos w=2u l=3u ng=1 m=4
.ends


* expanding   symbol:  FB_system.sym # of pins=6
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/FB_system.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/FB_system.sch
.subckt FB_system VDD out V_mem GND nwell psub
*.opin out
*.iopin V_mem
*.iopin VDD
*.iopin GND
*.iopin nwell
*.iopin psub
XMmirr Vmir Vmir VDD nwell sg13_hv_pmos w=4u l=2u ng=4
XMmirl4 V_mem Vmir net1 nwell sg13_hv_pmos w=1u l=2u ng=1
XMthr out V_mem Vmir nwell sg13_hv_pmos w=4u l=2u ng=4
XMmem1 out V_mem net2 psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmirl3 net1 Vmir net3 nwell sg13_hv_pmos w=1u l=2u ng=1
XMmirl2 net3 Vmir net4 nwell sg13_hv_pmos w=1u l=2u ng=1
XMmirl1 net4 Vmir VDD nwell sg13_hv_pmos w=1u l=2u ng=1
XMmem2 net2 V_mem net5 psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmem3 net5 V_mem net6 psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmem4 net6 V_mem GND psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMdum1 GND GND GND psub sg13_hv_nmos w=6u l=2u ng=6 m=2
XMdum2 GND GND GND psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMdum3 out GND GND psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMdum4 VDD VDD VDD nwell sg13_hv_pmos w=6u l=2u ng=6 m=2
XMdum5 VDD VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1 m=3
XMdum6 out VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1 m=2
XMdum7 V_mem VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1
XR1 VDD nwell ntap1 R=4.4 w=16e-6 l=10.5e-6 rw=0.3e-6
XR2 GND psub ptap1 R=4.829 w=16e-6 l=8.2e-6 rw=0.3e-6
.ends


* expanding   symbol:  REF_system.sym # of pins=9
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/REF_system.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/REF_system.sch
.subckt REF_system ACK V_mem REQ Vrefcap GND V_ref VDD nwell psub
*.iopin VDD
*.iopin GND
*.ipin V_ref
*.ipin REQ
*.ipin ACK
*.ipin V_mem
*.opin Vrefcap
*.iopin psub
*.iopin nwell
XM10 Vrefcap REQ net2 nwell sg13_hv_pmos w=1u l=0.5u ng=1
XM11 Vrefcap REQ net1 psub sg13_hv_nmos w=1u l=0.5u ng=1
XM12 net2 ACK VDD nwell sg13_hv_pmos w=1u l=0.5u ng=1
XM13 V_mem Vrefcap GND psub sg13_hv_nmos w=1u l=0.5u ng=1
XM14 net1 V_ref GND psub sg13_hv_nmos w=4u l=4u ng=2 m=4
XMdum3 GND GND GND psub sg13_hv_nmos w=2u l=4u ng=4 m=2
XMdum4 GND GND GND psub sg13_hv_nmos w=0.5u l=3u ng=1 m=4
XMdum5 GND GND GND psub sg13_hv_nmos w=2u l=3u ng=1 m=4
XR4 GND psub ptap1 R=3.342 w=25.7e-6 l=9e-6 rw=0.3e-6
XR1 VDD nwell ntap1 R=3.748 w=24e-6 l=7e-6 rw=0.3e-6
.ends


* expanding   symbol:  inv_lv.sym # of pins=4
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/inv_lv.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/inv_lv.sch
.subckt inv_lv VDD in out VSS
*.ipin in
*.opin out
*.iopin VDD
*.iopin VSS
XM3 out in VDD VDD sg13_lv_pmos w=1u l=0.15u ng=1
XM4 out in VSS VSS sg13_lv_nmos w=1u l=0.15u ng=1
XMdumm1 VDD VDD VDD VDD sg13_lv_pmos w=1u l=0.15u ng=1 m=2
XMdumm2 VSS VSS VSS VSS sg13_lv_nmos w=1u l=0.15u ng=1 m=2
.ends

.GLOBAL GND
.GLOBAL VDD
.end
